US05620997
4-[2-[2-(3-Carboxypropylcarbamoyl)phenyldisulfanyl] benzoylamino] butanoic acid
Following the procedure in Preparation 30, 16 g (0.15 mol) of 4-amino-butanoic acid was reacted with 10.8 g (0.03 mol) of 2,2'-dithiobisbenzoyl chloride to afford 7.14 g of the title compound.

reactant | 4-amino-butanoic acid | 0.15 mol, 16 g | NCCCC(=O)O | C4H9NO2
reactant | 2,2'-dithiobisbenzoyl chloride | 0.03 mol, 10.8 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
product | 4-[2-[2-(3-Carboxypropylcarbamoyl)phenyldisulfanyl] benzoylamino] butanoic acid | 7.14 g | C(=O)(O)CCCNC(=O)C1=C(C=CC=C1)SSC1=C(C(=O)NCCCC(=O)O)C=CC=C1 | C22H24N2O6S2
